### ISSUE TITLE
Proof obligation for `Lift.map` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#76]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**🤖 AI Analysis:**
This is a detailed comment for the proof obligation you provided.

### Statement Explanation

The theorem `Lift.map` states that the property of relational lifting (`Lift`) is preserved under post-processing functions. Specifically, if two probability mass functions `p` (on type `α`) and `q` (on type `β`) can be coupled in a way that the resulting pairs `(a, b)` always satisfy a relation `R`, then for any functions `f : α → γ` and `g : β → δ`, the transformed distributions `p.map f` and `q.map g` can also be coupled. The new coupling ensures that the transformed pairs `(f a, g b)` satisfy the new relation, which is the image of `R` under the pair-wise application of `f` and `g`.

In essence, this theorem provides a "map rule" for relational lifting, showing how to reason about the evolution of a relation between probabilistic states after applying deterministic functions to them. The hypothesis `hR` is actually redundant, as `(f a, g b)` is always in the image of `R` if `(a, b)` is in `R` by definition of `Set.image`.

### Context

This theorem is a fundamental building block for an API for relational program logics, as stated in the file's documentation. The `Lift p R q` predicate is the core concept, formalizing the idea that two probabilistic programs (represented by `p` and `q`) can be jointly executed such that their outcomes are related by `R`.

`Lift.map` is the simplest compositionality rule for this `Lift` predicate. It is built upon the more basic `IsCoupling.map` lemma, which handles the coupling of marginals but not the `supports` property. `Lift.map` extends this by also showing how the relation `R` is transformed. This rule is crucial for proving properties of sequential compositions of programs, where `f` and `g` might represent the next deterministic step in a computation. It is a key lemma for proving more complex rules like `Lift.bind` for monadic composition.

### Proof Suggestion

The proof has already been partially structured. You have a coupling `c` for `p` and `q` that supports `R`. A new coupling `c' := c.map (fun x => (f x.1, g x.2))` is proposed for `p.map f` and `q.map g`. The remaining goal is to prove that `c'` supports the new relation `Set.image (fun x => (f x.1, g x.2)) R`.

The high-level steps to complete the proof are:
1.  Introduce the goal: `∀ y, c' y ≠ 0 → y ∈ Set.image (fun x => (f x.1, g x.2)) R`.
2.  Let `y` be an element in the new domain `γ × δ` and assume `hy : c' y ≠ 0`.
3.  The fact `c' y ≠ 0` means that `y` is in the support of the mapped distribution `c'`. A key lemma from `Mathlib`, `PMF.mem_support_map_iff`, states that `y` being in the support of `c.map F` is equivalent to the existence of an element `x` in the support of `c` such that `F x = y`.
4.  Apply this lemma to get an `x : α × β` such that `c x ≠ 0` and `(f x.1, g x.2) = y`.
5.  Use the hypothesis `hsupp : IsCoupling.supports c R`. Since `c x ≠ 0`, `hsupp` implies that `x ∈ R`.
6.  Now you have `x ∈ R` and `y = (f x.1, g x.2)`. By the definition of `Set.image`, this is exactly what it means for `y` to be in `Set.image (fun x => (f x.1, g x.2)) R`.

A possible implementation using tactics could look like this:
```lean
intro y hy
-- Let F be the mapping function for brevity
let F := fun x : α × β => (f x.1, g x.2)
-- The support of a mapped PMF consists of images of the original support.
-- c' is c.map F, so hy means y is in the support of c.map F.
rw [PMF.mem_support] at hy
rcases (PMF.mem_support_map_iff).mp hy with ⟨x, hx_supp, h_eq⟩
-- hx_supp is x ∈ support c, which means c x ≠ 0
rw [PMF.mem_support] at hx_supp
-- By hypothesis `hsupp`, since c supports R, x must be in R.
have hx_in_R : x ∈ R := hsupp x hx_supp
-- The goal is y ∈ Set.image F R. We have x ∈ R and y = F x (from h_eq),
-- which is the definition of membership in a set image.
rw [h_eq]
exact Set.mem_image_of_mem F hx_in_R
```

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L161)

**Code Snippet:**
```lean
theorem Lift.map {p : PMF α} {q : PMF β} {R : Set (α × β)}
    (hpq : Lift p R q) (f : α → γ) (g : β → δ)
    (hR : ∀ a b, (a, b) ∈ R → (f a, g b) ∈ (Set.image (fun x : α × β => (f x.1, g x.2)) R)) :
    Lift (p.map f)
      (Set.image (fun x : α × β => (f x.1, g x.2)) R)
      (q.map g) := by
  rcases hpq with ⟨c, hc, hsupp⟩
  refine ⟨_, IsCoupling.map (hc) f g, ?_⟩
  intro y hy
  -- y = (f a, g b) for some (a,b) ∈ R by support transport; details deferred.
  -- One can use preimage witness on `map` mass; we leave as stub.
  sorry

```
